US07776897B2
4-(Phenylsulfonyl)-2-piperazinone was dissolved in dichloromethane, tetramethyloxonium tetrafluoroborate was added thereto, and the whole was stirred to obtain 5-methoxy-1-(phenylsulfonyl)-1,2,3,6-tetrahydropyrazine.

reactant | 4-(Phenylsulfonyl)-2-piperazinone | C1(=CC=CC=C1)S(=O)(=O)N1CC(NCC1)=O | C10H12N2O3S
reactant | tetramethyloxonium tetrafluoroborate | F[B-](F)(F)F.C[OH+](C)(C)C
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-methoxy-1-(phenylsulfonyl)-1,2,3,6-tetrahydropyrazine | COC1=NCCN(C1)S(=O)(=O)C1=CC=CC=C1 | C11H14N2O3S
